US04259486
Preparation of 2-(4-hydroxyphenyl)-3-methylbutyronitrile
A mixture of 4-(2-methyl-1-morpholinopropyl) phenol (2.35 g; 0.01 mol), potassium cyanide (1.6 g; 0.024 mol) and water (2.5 ml) is heated at 95°-100° C. for 17 hours. The reaction mixture is then cooled down, and added to about 35 ml of 5% sodium hydroxide. The aqueous solution is washed with ether (2×, 20 ml), and then its pH is adjusted to ~2 with 6 N hydrochloric acid. The acidified aqueous solution is extracted with ether (2×, 30 ml), the ethereal extracts are combined, washed with water, dried over magnesium sulfate, and concentrated to afford 1.7 g of title product, a viscous, almost colorless oil.

reactant | 4-(2-methyl-1-morpholinopropyl) phenol | 0.01 mol, 2.35 g | CC(C(N1CCOCC1)C1=CC=C(C=C1)O)C | C14H21NO2
reactant | potassium cyanide | 0.024 mol, 1.6 g | [C-]#N.[K+]
reactant | sodium hydroxide | about 35 ml | [OH-].[Na+]
solvent | water | 2.5 ml | O | H2O
product | 2-(4-hydroxyphenyl)-3-methylbutyronitrile | 1.7 g | OC1=CC=C(C=C1)C(C#N)C(C)C | C11H13NO
